US04661635
Samples of iodine (42.4 g, 0.167 mole) and silver acetate (27.87 g, 0.167 mole) were added in portions to a solution of 29.8 g (0.167 mole) of 1-(3-methoxyphenyl)-butane-3-one in 167 ml of glacial acetic acid. The mixture was stirred one hour. The silver iodide was removed by filtration and washed with acetic acid. The filtrate was partitioned between ether and water. The ether layer was washed with water, sodium bicarbonate solution and sodium thiosulfate solution. The ether solution was dried with MgSO4 and evaporated to dryness in vacuo. There was obtained 41.8 g (82% yield) of oily 1-(2-iodo-5-methoxyphenyl)butane-3-one.

reactant | iodine | 0.167 mole, 42.4 g | II | I2
reactant | 1-(3-methoxyphenyl)-butane-3-one | 0.167 mole, 29.8 g | COC=1C=C(C=CC1)CCC(C)=O | C11H14O2
solvent | acetic acid | 167 ml | C(C)(=O)O | C2H4O2
catalyst | silver acetate | 0.167 mole, 27.87 g | C(C)(=O)[O-].[Ag+]
product | 1-(2-iodo-5-methoxyphenyl)butane-3-one | 41.8 g, 82% yield | IC1=C(C=C(C=C1)OC)CCC(C)=O | C11H13IO2
